US04210648
11-[(1-Ethyl-3-piperidyl)aminoacetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
7.2 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one, 2.8 gm of sodium carbonate and 3.8 gm of 1-ethyl-3-amino-piperidine were refluxed in 100 ml of ethanol for 5 hours. Then the hot mixture was suction-filtered, the filtrate was evaporated in vacuo to dryness, and the residue was purified on a silica gel column. The evaporation residue of the eluate was recrystallized from ethyl acetate.

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one | 7.2 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 2.8 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-ethyl-3-amino-piperidine | 3.8 gm | C(C)N1CC(CCC1)N | C7H16N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 11-[(1-Ethyl-3-piperidyl)aminoacetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N1CC(CCC1)NCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C21H25N5O2
